US08110689B2
4-Chloro-3-[(S)-1-methyl-2-methylthioethylimino]-3-H-isobenzofuran-1-one (0.2 g) and 4-(3,5-bis-trifluoromethyl-benzyl)-2-methylaniline (0.22 g) were dissolved in acetonitrile (10 ml), to which p-toluenesulfonic acid hydrate (0.01 g) was added, and then stirred at room temperature for three hours. After the reaction, the solvent was distilled off under reduced pressure and the resultant residue was purified by silica gel column chromatography to obtain N1-[4-(3,5-bis-trifluoromethyl-benzyl)-2-methylphenyl]-3-chloro-N2-(S)-1-methyl-2-methylthioethyl)phthalamide (0.10 g).

reactant | 4-Chloro-3-[(S)-1-methyl-2-methylthioethylimino]-3-H-isobenzofuran-1-one | 0.2 g | ClC1=C2C(OC(C2=CC=C1)=O)=N[C@H](CSC)C | C12H12ClNO2S
reactant | 4-(3,5-bis-trifluoromethyl-benzyl)-2-methylaniline | 0.22 g | FC(C=1C=C(CC2=CC(=C(N)C=C2)C)C=C(C1)C(F)(F)F)(F)F | C16H13F6N
solvent | acetonitrile | 10 ml | C(C)#N | C2H3N
catalyst | p-toluenesulfonic acid hydrate | 0.01 g | O.C1(=CC=C(C=C1)S(=O)(=O)O)C
product | phthalamide | 0.10 g | C(C=1C(C(=O)N)=CC=CC1)(=O)N | C8H8N2O2
